US07338973B2
8-Methoxy-5,11-dihydro-6H-benzo[a]carbazole
Following the procedure described in Example 4, using 3,4-dihydro-2H-naphthalen-1-one (2.90 g, 20 mmoL) and 4-methoxy-phenylhydrazine HCl salt as the starting material, the title compound was prepared as a brown solid.

reactant | 3,4-dihydro-2H-naphthalen-1-one | 2.90 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | 4-methoxy-phenylhydrazine HCl salt | Cl.COC1=CC=C(C=C1)NN
product | 8-Methoxy-5,11-dihydro-6H-benzo[a]carbazole | COC=1C=C2C=3CCC4=C(C3NC2=CC1)C=CC=C4 | C17H15NO
